US08183275B2
3-(4′-{2-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}biphenyl-2-yloxymethyl)-4H-[1,2,4]triazole
3-(4′-{2-[4-(2,2-Dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}biphenyl-2-yloxymethyl)-4H-[1,2,4]triazole was converted to the title compound by treatment with TFA at 60° C. for 30 minutes. The crude product was purified by flash column chromatography on silica gel eluting with 0-20% methanol/ammonium hydroxide (10:1) in methylene chloride to afford the title compound. 1H NMR (300 MHz, CD3OD) δ 8.30 (s, 1H), 7.38 (d, J=8.2 Hz, 2H), 7.28 (m, 2H), 7.12 (m, 4H), 6.57 (s, 1H), 5.11 (s, 2H), 2.96 (m, 4H), 2.38 (s, 2H), 1.22 (m, 2H), 0.84 (s, 9H); LC-MS: m/e (M+H).

reactant | 3-(4′-{2-[4-(2,2-Dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}biphenyl-2-yloxymethyl)-4H-[1,2,4]triazole | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC=C(C=C1)C1=C(C=CC=C1)OCC1=NN=CN1)(CC)C | C45H45N5O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(4′-{2-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}biphenyl-2-yloxymethyl)-4H-[1,2,4]triazole | CC(CC=1N=C(NC1)CCC1=CC=C(C=C1)C1=C(C=CC=C1)OCC1=NN=CN1)(CC)C | C26H31N5O
